US08455522B2
A 100 mL round bottom flask was charged with 5-Bromo-3-propyl-3H-benzooxazol-2-one (716 mg, 2.80 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (785 mg, 3.09 mmol) and dioxane (15 mL). To this mixture PdCl2(dppf).CH2Cl2 (51.4 mg, 0.084 mmol) was added. The reaction mixture was stirred at 90° C. for overnight. The reaction was cooled to room temperature and concentrated in vacuo. The residue was purified by silica gel flash chromatography (Ethyl acetate-Heptane, v/v, 10-90 to 50-50) to afford pure product 3-propyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one as a light cream color solid.

reactant | 5-Bromo-3-propyl-3H-benzooxazol-2-one | 2.80 mmol, 716 mg | BrC=1C=CC2=C(N(C(O2)=O)CCC)C1 | C10H10BrNO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 3.09 mmol, 785 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | CH2Cl2 | 0.084 mmol, 51.4 mg | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 3-propyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one | C(CC)N1C(OC2=C1C=C(C=C2)B2OC(C(O2)(C)C)(C)C)=O | C16H22BNO4
